US07026324B2
A solution of [3-(cyclopropylmethyl-amino)-propyl]-carbamic acid benzyl ester (3.6 g, 0.014 mol) and di-tert-butyl dicarbonate (3 g, 0.014 mol) in methylene chloride (75 ml) was stirred at room temperature for 1 h. Concentration and flash chromatography (silica gel, hexane-ethyl acetate, 85:15–83:17) gave (3-benzyloxycarbonylamino-propyl)-cyclopropylmethyl-carbamic acid tert-butyl ester; 1H NMR (CDCl3, 400 MHz) δ 7.36 (m, 5H), 5.09 (s, 2H), 3.36 (m, 2H), 3.18 (m, 2H), 3.04 (m, 2H), 1.64 (m, 2H), 1.45 (s, 9H), 0.95 (m, 1H), 0.48 (m, 2H), 0.19 (q, 2H, J=4.9 Hz).

reactant | [3-(cyclopropylmethyl-amino)-propyl]-carbamic acid benzyl ester | 0.014 mol, 3.6 g | C(C1=CC=CC=C1)OC(NCCCNCC1CC1)=O | C15H22N2O2
reactant | di-tert-butyl dicarbonate | 0.014 mol, 3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | (3-benzyloxycarbonylamino-propyl)-cyclopropylmethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1CC1)CCCNC(=O)OCC1=CC=CC=C1)=O | C20H30N2O4
